US04585772
(a) 2-(3-Nitrophenylamino)benzonitrile
3,85 g (15 mMol) of 2-(3-Nitrophenylamino)benzoic acid amide in 30 ml (0,325 Mol) phosphorooxychloride were treated with 4,32 ml (31 mMol) triethylamine which is added dropwise, whereby the reaction mixture warms up. After thirty minutes the excess of phosphorooxychloride is distilled off, the residue is treated with water and the solid product is filtered off.

reactant | 2-(3-Nitrophenylamino)benzoic acid amide | 15 mMol, 3,85 g | [N+](=O)([O-])C=1C=C(C=CC1)NC1=C(C(=O)N)C=CC=C1 | C13H11N3O3
reactant | triethylamine | 31 mMol, 4,32 ml | C(C)N(CC)CC | C6H15N
product | 2-(3-Nitrophenylamino)benzonitrile | [N+](=O)([O-])C=1C=C(C=CC1)NC1=C(C#N)C=CC=C1 | C13H9N3O2
